US05723133
2-(2-methoxyethoxy)ethylguanidine
5.96 g (50.0 mmol) of 2-(2-methoxyethoxy)ethylamine and 3.00 g (50.0 mmol) of acetic acid were placed in a 30 ml two neck flask. While heating the flask in a 90° C. oil bath, 3.10 g (73.7 mmol) of cyanamide was added. After 5 hours of the reaction, the product was purified by a silica gel column chromatography (eluent, chloroform/ethanol=2/1 containing 0.5% acetic acid) to obtain 3.15 g of the title compound (wax-like, 14.2 mmol, 28.5% in yield) in the form of acetate. Results of the analysis of this compound are as follows.

reactant | 2-(2-methoxyethoxy)ethylamine | 50.0 mmol, 5.96 g | COCCOCCN | C5H13NO2
reactant | acetic acid | 50.0 mmol, 3.00 g | C(C)(=O)O | C2H4O2
reactant | cyanamide | 73.7 mmol, 3.10 g | N#CN | CH2N2
reactant | acetate | C(C)(=O)[O-]
product | 2-(2-methoxyethoxy)ethylguanidine | 14.2 mmol, 3.15 g, 28.5% | COCCOCCNC(=N)N | C6H15N3O2
